US07723360B2
2-Ethyl-1-{1-[3-(4-fluorobenzenesulfonyl-)propyl]-piperidin-4-yl}-1H-benzimidazole
To a stirred solution of 2-ethyl-1-piperidin-4-yl-1H-benzimidazole dihydrochloride (3.02 g) and 1-(3-chloropropane-1-sulfonyl)4-fluorobenzene (2.6 g) in 3:1 THF-DMF (25 ml) was added NaHCO3 (2.9 g), KI (0.3 g) and HMPT (5 ml). The mixture was heated at reflux for 2 h, and then allowed to cool to rt. Water (100 ml) was added and the mixture extracted with ethyl acetate (2×80 ml), and the organic layer separated and washed with water. This was further dried and concentrated in vacuo. The oil was purified by flash chromatography and the free base converted to the hydrochloride salt by action of HCl in ethanol. The solid was recrystallised from ethanol-petroleum ether to yield 2.0 g of the title compound as colourless crystals. Mp. 212-216° C.

reactant | 2-ethyl-1-piperidin-4-yl-1H-benzimidazole dihydrochloride | 3.02 g | Cl.Cl.C(C)C1=NC2=C(N1C1CCNCC1)C=CC=C2
reactant | 1-(3-chloropropane-1-sulfonyl)4-fluorobenzene | 2.6 g | ClCCCS(=O)(=O)C1=CC=C(C=C1)F | C9H10ClFO2S
reactant | THF DMF | 25 ml | C1CCOC1.CN(C)C=O
reactant | NaHCO3 | 2.9 g | C(=O)(O)[O-].[Na+]
solvent | Water | 100 ml | O | H2O
solvent | HMPT | 5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-Ethyl-1-{1-[3-(4-fluorobenzenesulfonyl-)propyl]-piperidin-4-yl}-1H-benzimidazole | 2.0 g | C(C)C1=NC2=C(N1C1CCN(CC1)CCCS(=O)(=O)C1=CC=C(C=C1)F)C=CC=C2 | C23H28FN3O2S
